### PR TITLE
Injectivity lemmas in fintype

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Missing theorems.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -1816,6 +1816,10 @@ move=> x; apply: ord_inj; rewrite insubdK; last first.
 by rewrite index_uniq ?enum_uniq // -cardE.
 Qed.
 
+Lemma enum_rank_in_inj x y A (Ax : x \in A) (Ay : y \in A) :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v]: I believe this is the combination of can_inj_in and enum_rankK_in so no need for a dedicated theorem...

Comment (pi8027) [reply mathcomp/ssreflect/fintype.v]: `can_in_inj (enum_rankK_in _)` requires that `Ax` and `Ay` are the same. This `enum_rank_in_inj` is slightly general.

Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: Well if you really want to be as general as possible you should write instead:
```coq
Lemma enum_rank_in_inj (x0 y0 : T) A (Ax0 : x0 \in A) (Ay0 : y0 \in A) :
  {in A &, forall x y, enum_rank_in Ax0 x = enum_rank_in Ay0 y -> x = y}.
Proof. by move=> x y xA yA /(congr1 enum_val); rewrite !enum_rankK_in. Qed.
```

Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: (Otherwise you restrict witnesses to be equal to the arguments, and it is unlikely to happen often enough...)

Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: But then I guess it is better to provide 
```coq
Lemma eq_enum_rank_in (x0 y0 : T) A (Ax0 : x0 \in A) (Ay0 : y0 \in A) :
  {in A, enum_rank_in Ax0 =1 enum_rank_in Ay0}.
Proof. by move=> x xA; apply: enum_val_inj; rewrite !enum_rankK_in. Qed.
```
instead...

Comment (CohenCyril) [reply mathcomp/ssreflect/fintype.v]: (to give more fine-grained control over the use of different witnesses)

Comment (pi8027) [reply mathcomp/ssreflect/fintype.v]: That's so true. Since `eq_enum_rank_in` doesn't match with my use case well, I'd like to put both of those.

**Comment by pi8027** [comment]
(Since my use case of this PR also requires #270 and #388, I'm totally fine to target 1.11.0 here.)

**Comment by amahboubi** [comment]
@ybertot should we merge this one now or after releasing?

**Comment by ybertot** [comment]
As I see, this PR is already approved, so it can be integrated (same treatment as #432).
